US08030334B2
3-Ethynylpyridine and 3,4-dimethyl-6-iodoaniline are processed according to the method described in Example 86 to give 5,6-dimethyl-2-pyridin-3-yl-1H-indole. MS (ESI) m/z 223.13 (M+H)+.

reactant | 3-Ethynylpyridine | C(#C)C=1C=NC=CC1 | C7H5N
reactant | 3,4-dimethyl-6-iodoaniline | CC=1C=C(N)C(=CC1C)I | C8H10IN
product | 5,6-dimethyl-2-pyridin-3-yl-1H-indole | CC=1C=C2C=C(NC2=CC1C)C=1C=NC=CC1 | C15H14N2
